US07015218B1
1-Benzyl-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-3-methylpyrazole-4-carboxamide ⅓ hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-benzyl-3-methylpyrazole-4-carboxylic acid (0.6 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.8 g), the title compound (0.63 g) was obtained, melting point: 193° C.

reactant | 1-benzyl-3-methylpyrazole-4-carboxylic acid | 0.6 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)O)C | C12H12N2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | 1-Benzyl-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-3-methylpyrazole-4-carboxamide | 0.63 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#N)C | C28H32N6O2
